US07439260B2
Step 6: 4-(3,5-difluorophenyl)-7-({5-[1-hydroxy-1-(trifluoromethyl)propyl]-1,3-thiazol-2-yl}thio)-2H-chromen-2-one
A solution of 4-(3,5-difluorophenyl)-fluoro-2H-chromen-2-one (0.258 g, 0.93 mmol), 1,1,1-trifluoro-2-(2-mercapto-1,3-thiazol-5-yl)butan-2-ol, (0.250 g, 1.03 mmol) and potassium carbonate (0.387 g, 2.8 mmol) in NMP was heated at 120° C. overnight. The mixture was cooled to room temperature and partitioned between aqueous NH4Cl and EtOAc. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organic layers were washed with water, brine and dried over anhydrous Na2SO4. The solvent was evaporated and the residue chromatographed on silica gel (toluene/acetone; 95:5) to give the title compound. 1H NMR (400 MHz, CDCl3): δ 7.78 (s, 1H), 7.56 (d, 1H), 7.43 (d, 1H), 7.37 (dd, 1H), 7.00-7.04 (m, 3H), 6.41 (s, 1H), 2.66 (br s, 1H), 2.12 (q, 2H), 0.98 (t, 3H).

reactant | 4-(3,5-difluorophenyl)-fluoro-2H-chromen-2-one | 0.93 mmol, 0.258 g | FC=1C=C(C=C(C1)F)C1=C(C(OC2=CC=CC=C12)=O)F | C15H7F3O2
reactant | 1,1,1-trifluoro-2-(2-mercapto-1,3-thiazol-5-yl)butan-2-ol | 1.03 mmol, 0.250 g | FC(C(CC)(O)C1=CN=C(S1)S)(F)F | C7H8F3NOS2
reactant | potassium carbonate | 2.8 mmol, 0.387 g | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 4-(3,5-difluorophenyl)-7-({5-[1-hydroxy-1-(trifluoromethyl)propyl]-1,3-thiazol-2-yl}thio)-2H-chromen-2-one | FC=1C=C(C=C(C1)F)C1=CC(OC2=CC(=CC=C12)SC=1SC(=CN1)C(CC)(C(F)(F)F)O)=O | C22H14F5NO3S2
